US07396934B2
A stirred solution of 37.75 g of diethyl 2-[(3-fluoro-4-methoxyphenylamino)methylene]malonate in 170 cm3 of diphenyl ether is brought to 245° C. for 3.5 hours. After cooling to ambient temperature, 220 cm3 of cyclohexane are added, and the precipitate thus obtained is filtered off and washed with cyclohexane and then with pentane and is spin-filtered to dryness. 24.10 g of ethyl 7-fluoro-4-hydroxy-6-methoxy-quinoline-3-carboxylate are obtained, in the form of a solid which melts at 280° C.

reactant | diethyl 2-[(3-fluoro-4-methoxyphenylamino)methylene]malonate | 37.75 g | FC=1C=C(C=CC1OC)NC=C(C(=O)OCC)C(=O)OCC | C15H18FNO5
reactant | cyclohexane | 220 cm3 | C1CCCCC1 | C6H12
solvent | diphenyl ether | 170 cm3 | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 7-fluoro-4-hydroxy-6-methoxy-quinoline-3-carboxylate | 24.10 g | FC1=C(C=C2C(=C(C=NC2=C1)C(=O)OCC)O)OC | C13H12FNO4
